US04382937
A mixture of ethyl 7-ethylsulfonyl-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (19.8 g) obtained according to the Reference Example 2, 3-acetylaminopyrrolidine (10.2 g), triethylamine (7.4 ml), and ethanol (400 ml) was heated under reflux for 2 hours. After cooling, the resulting crystals were collected by filtration, and recrystallized from chloroform-ethanol to give 16.8 g of ethyl 7-(3-acetylamino-1-pyrrolidinyl)-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate melting at 269°-270° C. A solution of the above ester (15.0 g) in 20% hydrochloric acid (100 ml) was heated under reflux for 4 hours. After cooling, ethanol (100 ml) was added to the mixture and the resulting crystals were collected by filtration. The crystals were dissolved in hot water (100 ml) and treated with charcoal. The filtrate was adjusted to pH 8.5-9.0 by addition of aqueous 27% ammonia, and the resulting crystals were collected by filtration, washed with water, and dried to give 9.3 g of the compound 3, m.p. 251°-255° C.

reactant | ethyl 7-ethylsulfonyl-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 19.8 g | C(C)S(=O)(=O)C1=C(C=C2C(C(=CN(C2=N1)CCF)C(=O)OCC)=O)F | C15H16F2N2O5S
reactant | 3-acetylaminopyrrolidine | 10.2 g | C(C)(=O)NC1CNCC1 | C6H12N2O
reactant | triethylamine | 7.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | ethyl 7-(3-acetylamino-1-pyrrolidinyl)-6-fluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 16.8 g | C(C)(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CCF)C(=O)OCC)=O)F | C19H22F2N4O4
